### PR TITLE
feat: add lemmas for `a / c < b / c` on `Int`

### PR DESCRIPTION
**Pull request by b-mehta**
This PR adds two lemmas to prove `a / c < b / c`.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase e6a07ca6b19f2247ddd75f3c20a39a9be273aa38 --onto 41356740210745d6b9735cb779fbd0f9eee591e5`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-23 20:23:06)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase e6a07ca6b19f2247ddd75f3c20a39a9be273aa38 --onto b0e6db322421ce368999f08870fd747e45242f86`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-25 15:11:45)

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 1]
```diff
@@ -1781,6 +1781,16 @@ theorem ediv_lt_ediv_iff_of_dvd_of_neg_of_neg {a b c d : Int} (hb : b < 0) (hd :
   obtain ⟨⟨x, rfl⟩, y, rfl⟩ := hba, hdc
   simp [*, Int.ne_of_lt, d.mul_assoc, b.mul_comm]
 
+theorem ediv_lt_ediv_of_lt {a b c : Int} (h : a < b) (hca : c ∣ a) (hcb : c ∣ b) (hc : 0 < c) :
```
Comment (Rob23oba) [inline src/Init/Data/Int/DivMod/Lemmas.lean]: `hca` is redundant here

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 2]
```diff
@@ -1781,6 +1781,16 @@ theorem ediv_lt_ediv_iff_of_dvd_of_neg_of_neg {a b c d : Int} (hb : b < 0) (hd :
...
+    a / c < b / c := by
+  rwa [Int.ediv_lt_ediv_iff_of_dvd_of_pos hc hc hca hcb, Int.mul_comm, 
+    Int.mul_lt_mul_right hc]
+  
+theorem ediv_lt_ediv_of_lt_of_neg {a b c : Int} (h : b < a) (hca : c ∣ a) (hcb : c ∣ b) (hc : c < 0) :
```
Comment (Rob23oba) [inline src/Init/Data/Int/DivMod/Lemmas.lean]: Similarly, `hcb` is redundant here

**Review by Rob23oba — CHANGES_REQUESTED** [review]
These lemmas could be slightly more general

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 1 above)
Comment (b-mehta) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: Good point, that was sloppy on my part

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 3]
```diff
@@ -1781,6 +1781,16 @@ theorem ediv_lt_ediv_iff_of_dvd_of_neg_of_neg {a b c d : Int} (hb : b < 0) (hd :
...
+    a / c < b / c := by
+  rwa [Int.ediv_lt_ediv_iff_of_dvd_of_neg_of_neg hc hc hca hcb, Int.mul_comm, 
+    Int.mul_lt_mul_right_of_neg hc]
```
Comment (b-mehta) [inline src/Init/Data/Int/DivMod/Lemmas.lean]:
```suggestion
  (Int.ediv_lt_iff_of_dvd_of_neg hc hca).2 
    (Int.lt_of_le_of_lt (Int.mul_ediv_self_le (Int.ne_of_lt hc)) h)
```

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 4]
```diff
@@ -1781,6 +1781,16 @@ theorem ediv_lt_ediv_iff_of_dvd_of_neg_of_neg {a b c d : Int} (hb : b < 0) (hd :
   obtain ⟨⟨x, rfl⟩, y, rfl⟩ := hba, hdc
   simp [*, Int.ne_of_lt, d.mul_assoc, b.mul_comm]
 
+theorem ediv_lt_ediv_of_lt {a b c : Int} (h : a < b) (hca : c ∣ a) (hcb : c ∣ b) (hc : 0 < c) :
+    a / c < b / c := by
+  rwa [Int.ediv_lt_ediv_iff_of_dvd_of_pos hc hc hca hcb, Int.mul_comm, 
+    Int.mul_lt_mul_right hc]
```
Comment (b-mehta) [inline src/Init/Data/Int/DivMod/Lemmas.lean]:
```suggestion
  Int.lt_ediv_of_mul_lt (Int.le_of_lt hc) hcb 
    (Int.lt_of_le_of_lt (Int.ediv_mul_le _ (Int.ne_of_gt hc)) h)
```

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 1 above)
Comment (b-mehta) [inline src/Init/Data/Int/DivMod/Lemmas.lean]:
```suggestion
theorem ediv_lt_ediv_of_lt {a b c : Int} (h : a < b) (hcb : c ∣ b) (hc : 0 < c) :
```

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 2 above)
Comment (b-mehta) [inline src/Init/Data/Int/DivMod/Lemmas.lean]:
```suggestion
theorem ediv_lt_ediv_of_lt_of_neg {a b c : Int} (h : b < a) (hca : c ∣ a) (hc : c < 0) :
```

**Comment by b-mehta** [comment]
I don't know what to change to make CI happy for this one, I'm unable to add the label it wants.

**Comment by Rob23oba** [comment]
You can add a label by writing a comment that only contains the name of the label

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 5]
```diff
@@ -1781,6 +1781,16 @@ theorem ediv_lt_ediv_iff_of_dvd_of_neg_of_neg {a b c d : Int} (hb : b < 0) (hd :
   obtain ⟨⟨x, rfl⟩, y, rfl⟩ := hba, hdc
   simp [*, Int.ne_of_lt, d.mul_assoc, b.mul_comm]
 
+theorem ediv_lt_ediv_of_lt {a b c : Int} (h : a < b) (hcb : c ∣ b) (hc : 0 < c) :
+    a / c < b / c := by
+  Int.lt_ediv_of_mul_lt (Int.le_of_lt hc) hcb 
+    (Int.lt_of_le_of_lt (Int.ediv_mul_le _ (Int.ne_of_gt hc)) h)
+  
+theorem ediv_lt_ediv_of_lt_of_neg {a b c : Int} (h : b < a) (hca : c ∣ a) (hc : c < 0) :
+    a / c < b / c := by
```
Comment (TwoFX) [inline src/Init/Data/Int/DivMod/Lemmas.lean]:
```suggestion
    a / c < b / c :=
  Int.lt_ediv_of_mul_lt (Int.le_of_lt hc) hcb 
    (Int.lt_of_le_of_lt (Int.ediv_mul_le _ (Int.ne_of_gt hc)) h)
  
theorem ediv_lt_ediv_of_lt_of_neg {a b c : Int} (h : b < a) (hca : c ∣ a) (hc : c < 0) :
    a / c < b / c :=
```

**Comment by b-mehta** [comment]
-awaiting-author
